US07897774B2
N-(4-Chlorophenyl)-2-(quinolin-4-ylmethylthio)pyridine-3-carboxamide (Compound No. 1-1)
O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetrauroniumhexafluorophosphate (140 mg, 0.38 mmol) was added to a solution of 2-(quinolin-4-ylmethylthio)pyridine-3-carboxylic acid (Reference Compound No. 7-1.91 mg, 0.31 mmol), 4-chloroaniline (52 mg, 0.40 mmol) and N,N-diisopropylethylamine (0.13 mL, 0.74 mmol) in anhydrous N,N-dimethylformamide (2.0 mL) at room temperature, and the mixture was stirred for 24 hours. Ethyl acetate (50 mL) was added thereto, and the whole was washed with saturated aqueous sodium hydrogencarbonate solution (50 mL, twice) and brine (50 mL), The organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and then the precipitated solid was filtered off and washed with a mixture of diethyl ether and ethyl acetate (1:1). The resulting solid was dried at 50° C. under reduced pressure to give 93 mg of the target compound as a reddish-brown solid (Yield: 75%)

reactant | 2-(quinolin-4-ylmethylthio)pyridine-3-carboxylic acid | N1=CC=C(C2=CC=CC=C12)CSC1=NC=CC=C1C(=O)O | C16H12N2O2S
reactant | 4-chloroaniline | 0.40 mmol, 52 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | N,N-diisopropylethylamine | 0.74 mmol, 0.13 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | N-(4-Chlorophenyl)-2-(quinolin-4-ylmethylthio)pyridine-3-carboxamide | 93 mg, Yield: 75% | ClC1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)SCC1=CC=NC2=CC=CC=C12 | C22H16ClN3OS
